US07381719B2
(R)-6-[4-(2-Benzylamino-propyl)-phenoxy]-nicotinamide
Using a method similar to example 2, using (R)-6-[4-(2-amino-propyl)-phenoxy]-nicotinamide and benzyl bromide gives the title product: HPLC (30/70 to 90/10 ACN/(0.1% TFA in water) Zorbax SB-Phenyl Column 4.6 mm×15 cm×5 micron: Retention time: 3.46 minutes, Purity: 97.9%; mass spectrum (ion spray): m/z=362.2 (M+1).

reactant | (R)-6-[4-(2-amino-propyl)-phenoxy]-nicotinamide | N[C@@H](CC1=CC=C(OC2=NC=C(C(=O)N)C=C2)C=C1)C | C15H17N3O2
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | (R)-6-[4-(2-Benzylamino-propyl)-phenoxy]-nicotinamide | C(C1=CC=CC=C1)N[C@@H](CC1=CC=C(OC2=NC=C(C(=O)N)C=C2)C=C1)C | C22H23N3O2
